US07855216B2
Step 1: 3-(2-Fluoro-4-iodo-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-amide
A mixture of 3-(2-fluoro-4-iodo-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester (90 mg, 0.21 mmol), 1N aqueous NaOH solution (0.22 ml, 0.22 mmol) and ethanol (3 ml) were heated at 65° C. for 2.5 hours. The reaction mixture was concentrated and then azeotroped with toluene (2×5 ml) to give a solid residue. The solid residue was dissolved in anhydrous THF (5 ml) and O—((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)hydroxylamine (49 mg, 0.41 mmol), EDCI (49 mg, 0.26 mmol), HOBt (39 mg, 0.29 mmol) and DIPEA (109 μl, 0.62 mmol) were added. After stirring for 19 hours the solvent was evaporated and the residue was partitioned between ethyl acetate (30 ml) and water (20 ml). The organic layer was isolated, dried over sodium sulphate then filtered and evaporated to give a yellow oil. The oil was purified by flash chromatography (Si-PPC, pentane:ethyl acetate, gradient 50:50 to 0:100) to afford the title compound as a yellow solid (71 mg, 65%). LCMS (method B): RT=2.87 min, M+H+=542.

reactant | 3-(2-fluoro-4-iodo-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 0.21 mmol, 90 mg | C(C)OC(=O)C1=C(C=2C=NC=CC2N1C)NC1=C(C=C(C=C1)I)F | C17H15FIN3O2
reactant | NaOH | 0.22 mmol, 1N, 0.22 ml | [OH-].[Na+]
reactant | O—((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)hydroxylamine | 0.41 mmol, 49 mg | CC1(OC[C@@H](O1)CON)C | C6H13NO3
reactant | EDCI | 0.26 mmol, 49 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.29 mmol, 39 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.62 mmol, 109 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 3-(2-Fluoro-4-iodo-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-amide | 71 mg, 65% | CC1(OC[C@@H](O1)CONC(=O)C1=C(C=2C=NC=CC2N1C)NC1=C(C=C(C=C1)I)F)C | C21H22FIN4O4
